US05905149
N-{2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl]acetyl}alanine methyl ester
To a solution of 2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl] acetic acid sodium salt (50 mg, 0.11 mmol), benzotriazol-1-yloxytrispyrrolidinophosphonium hexafluorophosphate (50 mg, 0.10 mmol) and triethylamine (11 mg, 0.11 mmol) in dichloromethane (10 ml) was added L-alanine methyl ester hydrochloride (20 mg, 0.14 mmol) and the mixture was stirred for 2 h at room temperature. Then dichloromethane was added, the organic layer washed 3 times with water, dried over sodium sulfate and concentrated under vacuum. The residue was chromatographed on silica gel using as eluant ethylacetate/cyclohexane (8:2) to give 45 mg (78.5% yield) of title compound.

reactant | 2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl] acetic acid sodium salt | 0.11 mmol, 50 mg | [Na+].C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC=NC12)C=C1C(N(C2=CC=CC=C12)CC(=O)[O-])=O
reactant | benzotriazol-1-yloxytrispyrrolidinophosphonium hexafluorophosphate | 0.10 mmol, 50 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | triethylamine | 0.11 mmol, 11 mg | C(C)N(CC)CC | C6H15N
reactant | L-alanine methyl ester hydrochloride | 0.14 mmol, 20 mg | Cl.COC([C@@H](N)C)=O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-{2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl]acetyl}alanine methyl ester | 45 mg, 78.5% yield | COC([C@@H](NC(CN1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1)=O)=O)C)=O | C31H27N3O5
